US07589204B2
tert-butyl [1-(1,3-dioxolan-2-ylmethyl)-2,3-dihydro-1H-inden-1-yl]methylcarbamate
Boc anhydride (8.49 g, 38.9 mmole) was added to a solution of [1-(1,3-dioxolan-2-ylmethyl)-2,3-dihydro-1H-inden-1-yl]methanamine (9.08 g, 38.9 mmole) and triethylamine (10.8 ml, 77.8 mmole) in 100 ml of THF. After stirring for 1 hour at room temperature the solvent was evaporated and the residue dissolved in Et2O and washed with water and saturated NaCl solution. After evaporation of the ether 13.53 g of tert-butyl [1-(1,3-dioxolan-2-ylmethyl)-2,3-dihydro-1H-inden-1-yl]methylcarbamate was obtained as a crude oil and used with no further purification.

reactant | Boc anhydride | 38.9 mmole, 8.49 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | [1-(1,3-dioxolan-2-ylmethyl)-2,3-dihydro-1H-inden-1-yl]methanamine | 38.9 mmole, 9.08 g | O1C(OCC1)CC1(CCC2=CC=CC=C12)CN | C14H19NO2
reactant | triethylamine | 77.8 mmole, 10.8 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-butyl [1-(1,3-dioxolan-2-ylmethyl)-2,3-dihydro-1H-inden-1-yl]methylcarbamate | O1C(OCC1)CC1(CCC2=CC=CC=C12)CNC(OC(C)(C)C)=O | C19H27NO4
